US09238631B2
b) Di-tert-butyl (4R)-4-{[5-(benzyloxy)pyridin-2-yl]methyl}-N-(tert-butoxycarbonyl)-L-glutamate
540 mg (1.50 mmol) of di-tert-butyl Boc-glutamate (prepared according to J. Peptide Res. 2001, 58, 338) were dissolved in 6 mL of tetrahydrofuran and cooled to −75° C. 3.45 mL (3.45 mmol) of a 1M solution of lithium bis(trimethylsilyl)amide in tetrahydrofuran were added dropwise and the mixture was stirred at −75° C. for another 60 minutes. 460 mg (1.65 mmol) of 5-(benzyloxy)-2-(bromomethyl)pyridine in 5 mL of tetrahydrofuran were then added dropwise, and after stirring 2 hours at −75° C., 3.45 mL of 2N aqueous hydrochloric acid were added, and after stirring another 30 minutes at −75° C., the cooling bath was removed and the mixture was allowed to warm up to room temperature. The mixture was partitioned between dichloromethane and aqueous sodium bicarbonate, and the organic layer was dried over magnesium sulfate and evaporated. The crude residue was purified by column chromatography on silica gel (ethyl acetate in hexane 0%→100%) to give 610 mg of the desired compound as yellowish oil (66% yield).

reactant | di-tert-butyl Boc-glutamate | 1.50 mmol, 540 mg | C(=O)(OC(C)(C)C)N[C@@H](CCC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C18H33NO6
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 5-(benzyloxy)-2-(bromomethyl)pyridine | 1.65 mmol, 460 mg | C(C1=CC=CC=C1)OC=1C=CC(=NC1)CBr | C13H12BrNO
reactant | hydrochloric acid | 2N, 3.45 mL | Cl | ClH
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | Di-tert-butyl (4R)-4-{[5-(benzyloxy)pyridin-2-yl]methyl}-N-(tert-butoxycarbonyl)-L-glutamate | 610 mg, 66% yield | C(C1=CC=CC=C1)OC=1C=CC(=NC1)C[C@@H](C[C@H](NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C31H44N2O7
